US07202364B2
A mixture of 1.95 g (10 mmol) of 2-acetylaminonaphthalene, and 7.1 g (20 mmol) of 1-(chloromethyl)-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) (Selectfluor®) in 30 mL of CH2CN is heated to reflux under an atmosphere of nitrogen for 24 hours. After cooling to room temperature, 50 mL of EtOAc is added and the mixture is washed with H2O and dried over MgSO4. Evaporation of the solvents gives a syrup that is purified by flash chromatography on silica gel (25% EtOAc/hexane) to give 1-fluoro-2-acetylaminonaphthalene.

reactant | 2-acetylaminonaphthalene | 10 mmol, 1.95 g | C(C)(=O)NC1=CC2=CC=CC=C2C=C1 | C12H11NO
reactant | 1-(chloromethyl)-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) | 20 mmol, 7.1 g | F[B-](F)(F)F.F[B-](F)(F)F.ClC[N+]12CC[N+](CC1)(CC2)F
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 1-fluoro-2-acetylaminonaphthalene | FC1=C(C=CC2=CC=CC=C12)NC(C)=O | C12H10FNO
